US05112947
(4) Z-Pro-Ser(Bzl)-Pro-Arg(NO2)-Gly-NH2
The desired compound was prepared from 1.0 g of Boc-Ser(Bzl)-Pro-Arg(NO2)-Gly-NH2, 10 ml of 4N HCl-AcOEt, 0.34 ml of NMM and 0.54 g of Z-Pro-OSu in the same manner as in Example 26-(4).

reactant | Boc-Ser(Bzl)-Pro-Arg(NO2)-Gly-NH2 | 1.0 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N)CCC1)C(=O)OC(C)(C)C | C28H43N9O9
reactant | NMM | 0.34 ml | CN1CCOCC1 | C5H11NO
reactant | Z-Pro-OSu | 0.54 g | N1([C@H](C(=O)ON2C(=O)CCC2=O)CCC1)C(=O)OCC1=CC=CC=C1 | C17H18N2O6
solvent | HCl AcOEt | 4N, 10 ml | Cl.CCOC(=O)C
product | Z-Pro-Ser(Bzl)-Pro-Arg(NO2)-Gly-NH2 | N1([C@H](C(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)N2[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N)CCC2)CCC1)C(=O)OCC1=CC=CC=C1 | C36H48N10O10
